US05328920
6-Chloro-3-[(1-methylethyl)(4-pyridyl)amino]benzo[b]thiophene hydrochloride
A solution of 6-chloro-3-(4-pyridinylamino)benzo[b]thiophene (2.43 g, 9.3 mmole) in 20 mL of dimethylformamide was added to a suspension of NaH (0.48 g of 60% in oil, 12.1 mmole) in DMF. To this was added 2-bromopropane (1.26 g, 10.2 mmole) and the reaction mixture was heated to 50° C. During the next 5 hours, an additional 200 mg of NaH and 1 g of the bromo compound were added three separate times. The reaction mixture was then quenched into water and extracted with ethyl acetate (3×). The combined organics were washed with water (3×), dried (MgSO4), filtered and concentrated. Purification of the residue via flash chromatography (C6H5CH3 →5%Et3N/C6H5CH3) gave 1.57 of an oil. This was dissolved in acetonitrile, treated with ethereal HCl and the salt was crystallized out with additional ether to give 1.20 g of a yellowish powder, mp: 244°-246° C.

reactant | 6-chloro-3-(4-pyridinylamino)benzo[b]thiophene | 9.3 mmole, 2.43 g | ClC=1C=CC2=C(SC=C2NC2=CC=NC=C2)C1 | C13H9ClN2S
reactant | NaH | 12.1 mmole, 0.48 g | [H-].[Na+]
reactant | 2-bromopropane | 10.2 mmole, 1.26 g | BrC(C)C | C3H7Br
reactant | NaH | 200 mg | [H-].[Na+]
reactant | HCl | Cl | ClH
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | DMF | CN(C)C=O | C3H7NO
solvent | acetonitrile | C(C)#N | C2H3N
product | 6-Chloro-3-[(1-methylethyl)(4-pyridyl)amino]benzo[b]thiophene hydrochloride | 1.20 g | Cl.ClC=1C=CC2=C(SC=C2N(C2=CC=NC=C2)C(C)C)C1 | InChI=1S/C16H15ClN2S.ClH/c1-11(2)19(13-5-7-18-8-6-13)15-10-20-16-9-12(17)3-4-14(15)16;/h3-11H,1-2H3;1H
